US09353082B2
a) 4-(3-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide
10% Palladium on carbon (0.122 g, 0.115 mmol) was added to a stirred solution of N-cyclohexyl-N-methyl-4-(3-nitrophenyl)-1H-imidazole-1-carboxamide (0.755 g, 2.299 mmol) in a mixture of ethyl acetate (46 mL) and methanol (46 mL) under an atmosphere of argon at room temperature. The mixture was then allowed to stir at room temperature under an atmosphere of hydrogen for 50 minutes. The mixture was filtered through celite and the pad was washed with methanol. The combined filtrate was evaporated to give a clear oil/foam (691 mg, 100%) that was used in the next step without further purification.

reactant | N-cyclohexyl-N-methyl-4-(3-nitrophenyl)-1H-imidazole-1-carboxamide | 2.299 mmol, 0.755 g | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C1=CC(=CC=C1)[N+](=O)[O-])C | C17H20N4O3
catalyst | Palladium on carbon | 0.115 mmol, 0.122 g | [Pd] | Pd
solvent | ethyl acetate | 46 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 46 mL | CO | CH4O
product | 4-(3-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 691 mg, 100% | NC=1C=C(C=CC1)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C17H22N4O
